* RC Low-Pass Filter with Square Wave Input
R1  1  2  1k
C1  2  0  1u
V1  1  0  SQUARE freq=1k duty=0.5 Vhigh=5 Vlow=0
.TRAN 1e-6 0.01
.PROBE V(1) V(2) I(R1) I(C1)
.END
